US06815438B2
3.7-Diazabicyclo[3.3.1]nonane:
Obtainable by catalytic hydrogenation of 3,7-dibenzyl-3.7-diazabicyclo[3.3.1]nonane. Hydrogenation is performed by stirring 3,7-dibenzyl-3.7-diazabicyclo[3.3.1]nonane in a mixture of ethanol, concentrated hydrochloric acid and palladium on carbon under an atmosphere of hydrogen.

reactant | 3,7-dibenzyl-3.7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2)CC2=CC=CC=C2 | C21H26N2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3.7-Diazabicyclo[3.3.1]nonane | C12CNCC(CNC1)C2 | C7H14N2
